Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting and rigors after prostate biopsy
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
50 w/ ___ 3+3 prostate cancer, history of N/V after prior 
prostate biopsy (previously attributed to reaction to 
periprocedural antibiotics), who presents with N/V and 
diaphoresis after prostate biopsy.

The patient underwent trans-rectal prostate biopsy with his 
Atrius urologist, ___, on ___.  He took Cipro for 
three days prior to the procedure, then a dose of Gentamicin 
120mg was provided for antimicrobial prophylaxis pre-op. After 
the procedure he began to have nausea and vomiting, which is the 
same symptom initially had the last time after his biopsy. 

He presented to ___, where vitals were stable, but he was 
noted to be having rigors. He was given Zosyn/Flagyl and 3L NS. 
They sent him downtown out of concern that he would need an ICU 
bed, and none was available at ___. 

The patient had an episode concerning for complete heart block 
while at ___, which was read by the ___ ___ physician as ___ 
or sinus arrhythmia with dropped beats and was signed off to our 
___ as such. In the ___ ___ he appeared more stable and was 
admitted east to the medicine floor. On arrival he is 
hemodynamically stable, asymptomatic, and in NSR. The cardiology 
fellow was notified to consider taking him to ___ in 
case of cardiac emergency, but decision was made to leave pacer 
pads on and continue to observe. 

REVIEW OF SYSTEMS
GEN: as per HPI
CARDIAC: denies chest pain or palpitations
PULM: denies new dyspnea or cough
GI: n/v; denies change in bowel habits
GU: denies dysuria or change in appearance of urine
Full 14-system review of systems otherwise negative and 
non-contributory. 
 
Past Medical History:
Low-risk prostate cancer ___ 3+3=6, PSA ___ range)
Asthma 
 
Social History:
___
Family History:
No FH of prostate cancer
No family history of heart problems
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.5, 131/67, 66, 16, 99%
GEN: NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
ADMISSION LABS:
___ 08:30PM BLOOD WBC-8.7 RBC-4.91 Hgb-14.3 Hct-41.2 MCV-84 
MCH-29.1 MCHC-34.7 RDW-12.2 RDWSD-37.1 Plt ___
___ 08:30PM BLOOD Neuts-89.9* Lymphs-6.1* Monos-3.6* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-7.77* AbsLymp-0.53* 
AbsMono-0.31 AbsEos-0.00* AbsBaso-0.01
___ 08:30PM BLOOD Glucose-126* UreaN-13 Creat-1.1 Na-140 
K-4.0 Cl-107 HCO3-14* AnGap-23*
___ 08:30PM BLOOD ALT-24 AST-24 AlkPhos-73 TotBili-0.8
___ 08:30PM BLOOD Lipase-29
___ 08:30PM BLOOD Albumin-4.2
___ 08:30PM BLOOD Lactate-3.5*

___ 11:01PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:01PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 11:01PM URINE RBC-86* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-___ w/ low-risk prostate cancer, history of N/V after prior 
prostate biopsy, who presents with N/V and concern for sepsis 
after prostate biopsy. ___ course also notable for bradycardia 
that was concerning for CHB.

# ? SEPSIS: Pt presented to ___ with N/V and rigors 
following prostate biopsy. He had similar symptoms after 
previous biopsy, which was attributed to side effect of abx 
given (he got different abx this time per report). His lactate 
was elevated on presentation and he received 3L IVFs. However, 
there was no documented hypotension. Perhaps, this could have 
represented transient bacteremia in the setting of prostate 
biopsy. He was treated with cipro/flagyl and remained clinically 
stable and was discharged on 3 additional days of oral 
ciprofloxacin and will see Urology at ___ in follow-up

# BRADYCARDIA: In SR with 1st degrees AVB since admission. 
Bradycardia in the ___ was likely vagal event in the setting of 
N/V. ___ cards saw the patient and recommended nothing more to 
do. Of note, there were 2 OSH ECGs which showed atrial 
fibrillation, one of which was imaged and uploaded to OMR. 
CHADSVASC score of 0, so anticoagulation was deferred.

#PROSTATE CANCER: Patient was continued on Flomax. He will f/u 
with Atrius urology as an outpatient as scheduled to go over 
biopsy results.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diagnoses:
- Prostate biopsy c/b transient bacteremia and sepsis, now 
resolved. Will continue on several more days of oral 
ciprofloxacin
- Sinus brady/block in setting of sepsis; resolved. See ___ 
Cardiology consult in OMR.
- Question of PAF. ___ ECG uploaded to OMR (likely AF); 
___ Cardiology to review at time of follow-up. CHADS-VASc score 
0 so no indication for anticoagulation.

review at outpatient follow-up.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital with nausea, vomiting, and sweats 
after your prostate biopsy. There was concern that this could 
have represented an infection related to your procedure, so you 
were placed on antibiotics.

While in the emergency room, you also had an episode of very low 
heart rates. You were seen by the cardiologists, who feel that 
this was likely related to your nausea and vomiting.
 
Followup Instructions:
___